US06645968B2
N″-cyano-N-(3-methoxyphenyl)guanidine
3-Methoxyaniline and sodium dicyanamide were procesed as described in Example 71A to provide the desired compound.

reactant | 3-Methoxyaniline | COC=1C=C(N)C=CC1 | C7H9NO
reactant | sodium dicyanamide | [N-](C#N)C#N.[Na+]
product | N″-cyano-N-(3-methoxyphenyl)guanidine | C(#N)N=C(NC1=CC(=CC=C1)OC)N | C9H10N4O
